US08283354B2
To a solution of 2-(4-chloro-7-methylquinazolin-2-yl)-3-fluorophenol (700 mg, 2.42 mmol) in 10 ml CH2Cl2 at 0° C. was added triethylamine (0.67 mL, 4.8 mmol) followed by the addition of tert-butyl piperidin-4-ylcarbamate (630 mg, 3.14 mmol) under an N2 atmosphere. The reaction was gradually warmed to room temperature and stirred overnight. The reaction mixture was then quenched with water, and the layers were separated. The aqueous layer was extracted twice with CH2Cl2, and the combined organic layers were dried over MgSO4, filtered, and concentrated to obtain tert-butyl 1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-4-ylcarbamate (1.05 g, 96%) LC/MS: m/z 453.3 (M+H)+ at 2.60 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA))

reactant | 2-(4-chloro-7-methylquinazolin-2-yl)-3-fluorophenol | 2.42 mmol, 700 mg | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C15H10ClFN2O
reactant | triethylamine | 4.8 mmol, 0.67 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl piperidin-4-ylcarbamate | 3.14 mmol, 630 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-4-ylcarbamate | 1.05 g, 96% | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1CCC(CC1)NC(OC(C)(C)C)=O)C | C25H29FN4O3
